*****************************************************************
* NXP PSMN9R0_30LL
*
* Polarity N-Channel
* Ratings 30V/9.00E-03OHMS/7.5A
*
* Date Created Fri Jul 30 03:10:46 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R0_30LL DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0002
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 1.00369050489138e-09
RLS2 SOURCE 8 2.52254724260937
RLS1 8 7 0.00245096599864345

RDS 7 4 30000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00345780382003176 TC=0.00672384027068855,3.15416224045179e-05
RBD 9 4 0.00202082254241829 TC=0.00672384027068855,3.15416224045179e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 1.045e-09
RG 1 2 1.43060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1318.5
+ -5	1311
+ -2	944
+ -1	763
+ -0.5	606
+ -0.2	511
+ -0.1	482
+ 0	396
+ 0.1	332.8
+ 0.2	330.2
+ 0.5	306.2
+ 1	226.2
+ 2	172.7
+ 5	133.74
+ 10	112.73
+ 12	108.61
+ 20	100.28
+ 25	97.32



.MODEL MINT NMOS(Vto=2.1 Kp=11e+01 Nfs=500000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1300)

.MODEL DBD D(Bv=35.00 Ibv=2.50E-04 Rs=1E-6 Is=8.75196931612e-13
+ N=1 M=0.56 VJ=0.99 Fc=0.5 Cjo=6.5379e-10 Tt=3.014e-08)

.ENDS
